US08664220B2
Step 1: 1-{4′-[4-([2,4]Bipyridinyl-6-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using 1-{4′-[4-(6-bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and pyridine-4-boronic acid.

reactant | 1-{4′-[4-(6-bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)Br | C27H24BrN3O3
reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 1-{4′-[4-([2,4]Bipyridinyl-6-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC=CC(=N1)C1=CC=NC=C1 | C32H28N4O3
